US07915424B2
5-(3-Trifluoromethoxyphenylethynyl)-nicotinonitrile
Add triethylamine (1.73 mL, 12.28 mmol), copper (I) iodide (34.0 mg, 0.180 mmol) and bis(triphenylphosphine)palladium (II) dichloride (107.7 mg, 0.150 mmol) to a solution of 5-bromonicotinonitrile (562.2 mg, 3.07 mmol) and 1-ethynyl -3-trifluoromethoxybenzene, (prepared as described in PREPARATION 28), (571.4 mg, 3.07 mmol) in ethyl acetate (3 mL). Stir in a sealed tube at 50° C. for 18 h, concentrate and purify the residue by silica gel chromatography, eluting with 100:0 to 100:50 hexanes:ethyl acetate, to give the title compound (130 mg, 15%).

reactant | triethylamine | 12.28 mmol, 1.73 mL | C(C)N(CC)CC | C6H15N
reactant | 5-bromonicotinonitrile | 3.07 mmol, 562.2 mg | BrC=1C=NC=C(C#N)C1 | C6H3BrN2
reactant | 1-ethynyl -3-trifluoromethoxybenzene | 3.07 mmol, 571.4 mg | C(#C)C1=CC(=CC=C1)OC(F)(F)F | C9H5F3O
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.180 mmol, 34.0 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.150 mmol, 107.7 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 5-(3-Trifluoromethoxyphenylethynyl)-nicotinonitrile | 130 mg, 15% | FC(OC=1C=C(C=CC1)C#CC=1C=NC=C(C#N)C1)(F)F | C15H7F3N2O
